US08685975B2
To a solution of (4-(5-ethyl-1,3,4-oxadiazol-2-yl)phenyl)methanol (1.8 g, 8.8 mmol) in CH2Cl2 (50 mL) was added molecular sieves (1.5 g, 4 Å) and the mixture was cooled to 0° C. Pyridinium chlorochromate (2.27 g, 10.5 mmol) was added in portions to the reaction mixture then it was warmed to room temperature. After stirring for 2 hrs, the mixture was filtered through Celite and rinsed with additional CH2Cl2. The filtrate was concentrated in vacuo. Purification by chromatography (EtOAc-hexanes) provided 4-(5-ethyl-1,3,4-oxadiazol-2-yl)benzaldehyde as an off-white solid (1.3 g, 70%).

reactant | (4-(5-ethyl-1,3,4-oxadiazol-2-yl)phenyl)methanol | 8.8 mmol, 1.8 g | C(C)C1=NN=C(O1)C1=CC=C(C=C1)CO | C11H12N2O2
reactant | Pyridinium chlorochromate | 10.5 mmol, 2.27 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(5-ethyl-1,3,4-oxadiazol-2-yl)benzaldehyde | 1.3 g, 70% | C(C)C1=NN=C(O1)C1=CC=C(C=O)C=C1 | C11H10N2O2
